US07229806B2
Growth Kinetic Studies with Recombinant E. coli NST74 Strains Containing Both pal and pdc Genes for Conversion of Glucose to pHS
Two strains (designated as WWQ51.1 and WSQ1) were constructed from the E. coli phenylalanine overproducing strain E. coli NST74 by transformation with pCA16 and pKSM-pdc1 and selection for ampicillin and kanamycin resistance, as described in Example 4. Since preliminary experiments showed similar patterns for both constructs, we chose strain WWQ51.1 for further studies.

reactant | phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | pCA16 | C1=CN(C(=O)N=C1N)[C@H]2[C@H]([C@@H]([C@H](O2)COP(=O)(O)OCCCCCCCCCCCCCCCC(=O)O)O)O | C25H44N3O10P
reactant | ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | kanamycin | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)N)O)N | C18H36N4O11
product | Glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
